US06307057B1
To a solution of ethanolic MeNH2 (8.0 M, 60 mnL) was added (S)-phenylalanine methyl ester hydrochloride (26.0 g, 121 mmol) and the resulting solution was stirred at room temperature until the amino ester was judged to be consumed as determined by TLC (20 hr). After removal of the organic solvents in vacuo, the residue was suspended in Et2O and then concentrated. This Et2O addition-removal cycle was repeated several times (to remove excess MeNH2) until (S)-phenylalanine N-methyl amide hydrochloride was obtained as a white solid. This amide hydrochloride was then treated with saturated aqueous NaHCO3 (100 mL) and the free amine was extracted with CHCl3 (100 mL×3), dried (Na2SO4), filtered, and concentrated. To this residue was added MeOH (240 mL), acetone (45 mL, 605 mmol), and pTSA (230 mg, 1.2 mmol). The resulting solution was heated to reflux for 18 hr, cooled to room temperature, and then concentrated in vacuo. The residue was taken up in Et2O, and a solution of HCl-dioxane (4.0 M) was added to precipitate compound (5). The precipitate was recrystallized from isopropanol to provide (5S)-5-benzyl-2,2,3-trimethylimidazolidin-4-one hydrochloride as colorless crystals in 59% overall yield from phenylalanine methyl ester hydrochloride (18.1 g, 71 mmol). IR (CH2Cl2) 3366, 1722, 1644, 1397 cm1; 1H NMR: (400 MHZ, d6-DMSO) δ 7.47-7.49 (d, J=7.2 Hz, 2H, PhH), 7.32-7.36 (m, 2H, PhH), 7.25-7.29 (m, 1H, PhH), 4.59-4.57 (br d, J=7.6 Hz, 1H, COCH), 3.35-3.42 (dd, J=15.0, 10.2 Hz, 1H, PhCHH), 3.22-3.26 (dd, J=15.0, 3.6 Hz, 1H, PhCHH), 2.76 (s, 3H, NCH3), 1.70 (s, 3H, CHCH3CH3), 1.50 (s, 3H, CHCH3CH3); 13C NMR (100 MHZ, d6-DMSO) δ 166.9, 136.8, 129.7, 128.8, 127.2, 77.1, 57.7, 33.2, 25.2, 23.9, 22.2; HRMS (CI) exact mass calcd for C13H19N2O) requires m/z 219.1497, found m/z 219.1387. The enantiopurity was confirmed (>99% ee) by HPLC analysis of the free amine using a Chiracel OD-H column (6% isopropanol in hexanes, 1 mL/min); (S)-enantiomer tr=14.1 min, (R)-enantiomer tr=16.6 min.

reactant | MeNH2 | 8.0 M | CN | CH5N
reactant | (S)-phenylalanine methyl ester hydrochloride | 121 mmol, 26.0 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | acetone | 605 mmol, 45 mL | CC(=O)C | C3H6O
reactant | pTSA | 1.2 mmol, 230 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | MeOH | 240 mL | CO | CH4O
product | (5S)-5-benzyl-2,2,3-trimethylimidazolidin-4-one hydrochloride | Cl.C(C1=CC=CC=C1)[C@H]1C(N(C(N1)(C)C)C)=O | InChI=1S/C13H18N2O.ClH/c1-13(2)14-11(12(16)15(13)3)9-10-7-5-4-6-8-10;/h4-8,11,14H,9H2,1-3H3;1H/t11-;/m0./s1
